US07176242B2
Methyl 5-{[butyl(methyl)amino]methyl}thiophene-2-carboxylate
To a solution of methyl 5-(bromomethyl)thiophene-2-carboxylate (350 mg, 1.49 mmol) in dry acetone (6.0 mL) is added N-methylbutylamine (533 μL, 4.47 mmol) and the solution stirred at room temperature overnight. The reaction is then concentrated under reduced pressure, redissolved in methylene chloride, washed with saturated sodium bicarbonate, water, and brine. The organic layer is then dried (sodium sulfate), filtered, and concentrated under reduced pressure to yield the title compound in pure form. 1H NMR (300 MHz, CDCl3) δ 7.65 (d, J=3 Hz, 1H), 6.88 (d, J=3 Hz, 1H), 3.86 (s, 3H), 3.69 (s, 2H), 2.41–2.36 (m, 2H), 2.25 (s, 3H), 1.53–1.43 (m, 2H), 1.34–1.25 (m, 2H), 0.91 (t, J=7 Hz, 3H)

reactant | methyl 5-(bromomethyl)thiophene-2-carboxylate | 1.49 mmol, 350 mg | BrCC1=CC=C(S1)C(=O)OC | C7H7BrO2S
reactant | N-methylbutylamine | 4.47 mmol, 533 μL | CNCCCC | C5H13N
solvent | acetone | 6.0 mL | CC(=O)C | C3H6O
product | Methyl 5-{[butyl(methyl)amino]methyl}thiophene-2-carboxylate | C(CCC)N(C)CC1=CC=C(S1)C(=O)OC | C12H19NO2S
